US06969724B2
(±)-4-Oxo-1,2,3,4-tetrahydro-2-naphthoic acid
100 mL (0.425 mol) of diethyl benzylmalonate were added dropwise to a stirred suspension of 28 g (0.7 mol) of NaH (60% dispersion in mineral oil) in 550 mL of absolute ethanol at room temperature. The reaction mixture was refluxed 2 h, then cooled to 50° C. and 47.1 mL (0.425 mol) of ethyl bromoacetate were added dropwise. The reaction mixture was refluxed 2 h, then quenched with 150 mL of water; a solution of 140 g (3.5 mol) of NaOH in 400 mL of water was added and the mixture was heated to reflux for 1 h. EtOH was removed in vacuo, the aqueous solution was washed with Et2O and then carefully brought to acidic pH with 350 mL of 37% HCl and extracted with AcOEt. The solvent was removed in vacuo and the resulting residue was heated to 180° C. for 30 min. After cooling to room temperature, 100 mL of 95% H2SO4 were added and the reaction mixture stirred for 2 h, then it was poured onto 500 g of crushed ice and extracted with Et2O. The organic phase was dried and the solvent removed in vacuo. The resulting residue was taken up in Et2O, washed with 40% NaOH solution then brought to acidic pH with 37% HCl and extracted with Et2O. The organic phase was dried and the solvent removed in vacuo. The resulting solid residue was triturated with Et2O, filtered and dried yielding 15 g of the title compound, used without further purification. m.p.=146-147° C. IR (cm−1): 2924, 1692, 1600; NMR (300 MHz, DMSO, δ ppm): 12.6-12.5 (bs, 1H); 7.9 (d, 1H); 7.6-7.5 (m, 1H); 7.4-7.3 (m, 2H); 3.3-3.1 (m, 3H); 2.7 (m, 2H). MS (m/z): 191.1 (MH+).

reactant | diethyl benzylmalonate | 0.425 mol, 100 mL | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | NaH | 0.7 mol, 28 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.425 mol, 47.1 mL | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 3.5 mol, 140 g | [OH-].[Na+]
solvent | ethanol | 550 mL | C(C)O | C2H6O
solvent | water | 400 mL | O | H2O
product | (±)-4-Oxo-1,2,3,4-tetrahydro-2-naphthoic acid | 15 g | O=C1CC(CC2=CC=CC=C12)C(=O)O | C11H10O3
